US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-(piperidine-4-carbonyl)-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide hydrochloride
4 M HCl in dioxane (5 ml) is added to a solution of 4-{2-[(E)-3,5-diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester (Intermediate BA) (0.14 g, 0.26 mmol) in dioxane (10 ml) and the reaction mixture is stirred at room temperature for 3 hours. The reaction mixture is concentrated in vacuo and the yellow solid obtained is triturated with DCM. The DCM layer is decanted and the compound is washed with MeOH and dried under vacuum to afford the title compound as yellow solid; [M+H]+ 436

reactant | HCl | 4 M | Cl | ClH
reactant | 4-{2-[(E)-3,5-diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.26 mmol, 0.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CCC2(CN\C(\N2)=N/C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | C23H34ClN9O4
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-(piperidine-4-carbonyl)-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide hydrochloride | Cl.N1CCC(CC1)C(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | InChI=1S/C18H26ClN9O2.ClH/c19-12-14(21)25-13(20)11(24-12)15(29)26-17-23-9-18(27-17)3-7-28(8-4-18)16(30)10-1-5-22-6-2-10;/h10,22H,1-9H2,(H4,20,21,25)(H2,23,26,27,29);1H
